US03976643
The free base is prepared by dissolving 2,6-dichlorophenylguanidine hydrochloride in 10% sodium hydroxide solution and extracting with ether. The ether is dried and evaporated to dryness to obtain 2,6-dichlorophenylguanidine.

reactant | 2,6-dichlorophenylguanidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC(=N)N
solvent | sodium hydroxide | [OH-].[Na+]
product | 2,6-dichlorophenylguanidine | ClC1=C(C(=CC=C1)Cl)NC(=N)N | C7H7Cl2N3
